US07157487B2
In methylene chloride (30 ml) was dissolved 5-fluoro-1-methylindole-3-carboxylic acid (885 mg, 4.58 mmol). To the resulting solution was added oxalyl chloride (600 μl, 6.87 mmol) under stirring at 0° C., and the resulting mixture was stirred at room temperature for 1 hour. From the reaction mixture, the solvent was distilled off under reduced pressure. The residue was dissolved in methylene chloride (50 ml). The resulting solution was added dropwise to a solution of ethyl (4-amino-5-chloro-2-fluorophenyl)acetate (1.06 g, 4.58 mmol) in methylene chloride (20 ml), followed by heating under reflux for 15 minutes. The reaction mixture was cooled and triethylamine (3.19 ml, 22.9 mmol) was added thereto. The resulting mixture was heated under reflux for 18 hours. The reaction mixture was cooled and poured in 1N HCl, followed by extraction with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from hexane/ethyl acetate (2/1) eluate fractions, ethyl (5-chloro-2-fluoro-4-(((5-fluoro-1-methyl-3-indolyl)carbonyl)amino)phenyl)acetate (868 mg, 47%) was obtained as a white solid.

reactant | 5-fluoro-1-methylindole-3-carboxylic acid | 4.58 mmol, 885 mg | FC=1C=C2C(=CN(C2=CC1)C)C(=O)O | C10H8FNO2
reactant | oxalyl chloride | 6.87 mmol, 600 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl (4-amino-5-chloro-2-fluorophenyl)acetate | 4.58 mmol, 1.06 g | NC1=CC(=C(C=C1Cl)CC(=O)OCC)F | C10H11ClFNO2
reactant | triethylamine | 22.9 mmol, 3.19 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 1N | Cl | ClH
product | ethyl (5-chloro-2-fluoro-4-(((5-fluoro-1-methyl-3-indolyl)carbonyl)amino)phenyl)acetate | 868 mg, 47% | ClC=1C(=CC(=C(C1)CC(=O)OCC)F)NC(=O)C1=CN(C2=CC=C(C=C12)F)C | C20H17ClF2N2O3
